US07592461B2
A MeOH (6 mL) solution of the trans-propenylindane acid from 144b (11.8 mg, 0.18 mmol) was hydrogenated under 50 psi H2 for 1 h to give propylindane acid. MS Found: (M+Na)+=317.

reactant | trans-propenylindane | C(=C\C)/C1CCC2=CC=CC=C12 | C12H14
solvent | MeOH | 6 mL | CO | CH4O
product | propylindane | C(CC)C1CCC2=CC=CC=C12 | C12H16
